US06251912B1
Isobutyl chloroformate (0.432 g, 3.2 mmol) and N-methylmorpholine (0.959 g, 9.48 mmol) were added to an ice cold solution of 0.720 g (6.32 mmol) of 4-methoxy-but-2-ynoic acid in 30 mL of tetrahydrofuran under nitrogen. After stirring for 30 min, a solution of 0.500 g of N-(3-bromophenyl)-4,6-quinazolindiamine in 8 mL of pyridine was added and the mixture was stirred for 2 hr at 0° C. The reaction was then quenched with ice water, poured into saturated sodium bicarbonate, and the product was extracted with ethyl acetate. Chromatography of the extract on silica gel, eluting with methanol/ethyl acetate (15:85), gave 0.270 g of 4-Methoxy-but-2-ynoic acid [4-(3-bromo-phenylamino)-quinazolin-6-yl]-amide: mass spectrum (m/e): M+H 411.

reactant | Isobutyl chloroformate | 3.2 mmol, 0.432 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 9.48 mmol, 0.959 g | CN1CCOCC1 | C5H11NO
reactant | 4-methoxy-but-2-ynoic acid | 6.32 mmol, 0.720 g | COCC#CC(=O)O | C5H6O3
reactant | N-(3-bromophenyl)-4,6-quinazolindiamine | 0.500 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)N | C14H11BrN4
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | 4-Methoxy-but-2-ynoic acid [4-(3-bromo-phenylamino)-quinazolin-6-yl]-amide | 0.270 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C#CCOC)=O | C19H15BrN4O2
